US07932391B2
(1) Preparation of (±)α-Bromo-2-(2-chlorophenyl)acetonitrile
2-(2-Chlorophenyl) acetonitrile (151.5 g, 1 mol) was heated to 110° C. in a three-necked flask, keep the temperature, bromine (176 g, 1.1 mol) was added dropwise over a period of 3 h and the mixture was reacted with constant stirring for another 3 h. The reaction mixture was cooled to below 30° C. and water (400 mL) was added and stirring continued for another 5 minutes to remove HBr and stand aside. The organic layer was separated and washed with small amount of 5% sodium bisulfite for 15 minutes with stirring. The organic layer was again separated and washed with water to near pH 7, and the brown oily product was obtained (225 g, 96% yield); bp: 107-110° C./15 mmHg. IR (cm−1): 2969, 2253, 1589, 1472, 1445, 1194, 1051, 765, 725, 646; 1HNMR (300 MHz, CDCl3): 7.83 (1H, m), 7.38-7.45 (4H, m), 5.87 (1H, s). The crude product was used directly for the next step.

reactant | 2-(2-Chlorophenyl) acetonitrile | 1 mol, 151.5 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
reactant | bromine | 1.1 mol, 176 g | BrBr | Br2
solvent | water | 400 mL | O | H2O
product | (±)α-Bromo-2-(2-chlorophenyl)acetonitrile | 96% yield | BrC(C#N)C1=C(C=CC=C1)Cl | C8H5BrClN
